US08980322B2
Benzyl 2-(methylamino)ethyl Carbonate Hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl(methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (20 mL) were added pyridine (0.97 mL) and 4-dimethylaminopyridine (catalytic amount), and benzyl chlorocarbonate (1.57 mL) was dropwise added. After stirring at room temperature for 2 hrs., pyridine (0.65 mL) and benzyl chlorocarbonate (1.28 mL) were added. After stirring at room temperature for 5 days, pyridine (0.81 mL) was added under ice-cooling and a solution (5 mL) of benzyl chlorocarbonate (1.43 mL) in ethyl acetate was dropwise added slowly. After stirring at room temperature for 2 hrs., ethyl acetate (50 mL) was added to the mixture. The mixture was washed with water (50 mL), a 5% aqueous citric acid solution (50 mL) and saturated brine (50 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride—ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 2 hrs., diethyl ether (10 mL) was added, and the precipitated solid was collected by filtration. The solid was dried under reduced pressure to give the title compound (1.99 g) as a white solid.

reactant | tert-butyl 2-hydroxyethyl(methyl)carbamate | 1.75 g | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl chlorocarbonate | 1.57 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | pyridine | 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl chlorocarbonate | 1.28 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | pyridine | 0.81 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl chlorocarbonate | 5 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-(methylamino)ethyl Carbonate Hydrochloride | 1.99 g | Cl.C(OCC1=CC=CC=C1)(OCCNC)=O | InChI=1S/C11H15NO3.ClH/c1-12-7-8-14-11(13)15-9-10-5-3-2-4-6-10;/h2-6,12H,7-9H2,1H3;1H
